Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Dilaudid / Humira / Remicade / prednisone
 
Attending: ___.
 
Chief Complaint:
abd pain, choledocholithiasis
 
Major Surgical or Invasive Procedure:
ERCP
 
History of Present Illness:
PCP: ___
GI: ___ (___)
. 
CC: ___ h/o UC on ___, cholelithiasis s/p lap CCY ___ 
admitted with persistent abd pain with acute worsening of 
epigastric/RUQ pain for past 10 days without fever.   At 
baseline, reports poor control of Crohns - regularly ___ 
watery BM/day and is being followed by GI at ___.  Started on 
Entyvio ___ years ago.  Approximately 2 months ago, noted RUQ abd 
pain - and ultimately underwent lap chole on ___.  Since 
then, she has noted constant RUQ abd pain with exacerbation of 
watery diarrhea (up to 50x day - non-bloody).  Pain had worsened 
over the past 10 days and thus went to OSH where MR abdomen 
demonstrated filing defect in distal CBD 2.7 mm consistent with 
choledocholithiasis and the CBD measured 6.3 mm.
    No fever.  

In the ED, initial vitals: 98.4 100  119/56  16 99% RA 
 - Exam notable for: RUQ abd tenderness
 - Labs notable for:  T bili 1.5, D bili 0.9, ALKpho 198, ALT 
290, AST 164, ___ neg. WBC 12.6. 
 - Imaging notable for: Trans vag US demonstrated IUP 5 weeks.

ROS: per HPI, denies fever, chills, night sweats, headache, 
vision changes, rhinorrhea, congestion, sore throat, cough, 
shortness of breath, chest pain, BRBPR, melena, hematochezia, 
dysuria, hematuria.  A 10 pt review of sxs was otherwise 
negative.
 
Past Medical History:
# UC diagnosed ___
 - poorly controlled, started Enty___ ___
# Depression
# cholelithiasis s/p CCY ___
 
Social History:
___
Family History:
Single child.  No FH with IBD.  
MGM with DM2, COPD, colostomy ___ diverticulitis).  
Grandparents on both sides with CAD.
 
Physical Exam:
Vital Signs: 97.7   130/61  124  20  98% on RA
glucose: 
. 
GEN: NAD, well-appearing, lying in bed, pleasant
EYES: PERRL, EOMI, conjunctiva clear, anicteric
ENT: moist mucous membranes, no exudates 
NECK: supple 
CV: tachycardic, normal rhythm s1s2 nl, no m/r/g
PULM: CTA, no r/r/w 
GI: normal BS, RUQ tenderness, ND, no HSM  
EXT: warm, no c/c/e
SKIN: no rashes 
NEURO: alert, oriented x 3, answers ? appropriately, follows 
commands, non focal
PSYCH: appropriate
ACCESS: PIV
FOLEY: absent

 
Pertinent Results:
___ 07:00AM   WBC-12.3* RBC-3.82* HGB-11.1* HCT-33.9* 
MCV-89 MCH-29.1 MCHC-32.7 RDW-14.6 RDWSD-47.4*
___ 07:00AM   PLT COUNT-340
___ 07:00AM   ALT(SGPT)-247* AST(SGOT)-144* ALK PHOS-174* 
TOT BILI-0.9
___ 07:00AM   LIPASE-26
___ 07:00AM   GLUCOSE-103* UREA N-3* CREAT-0.5 SODIUM-135 
POTASSIUM-5.7* CHLORIDE-100 TOTAL CO2-19* ANION GAP-22*
___ 07:20AM   ___ PTT-29.3 ___

# ERCP (___): Scout film was not done (to decrease radiation 
exposure to the minimum). The CBD was successfully cannulated 
with a Rx shiphincterotome preloaded with 0.035 in guidewire. 
The common bile duct, common hepatic duct, left and right 
hepatic ducts and the cystic duct were opacified. A filling 
defect was seen in the mid CBD consistent with a stone. A 
biliary sphincterotomy was successfully done using 
sphincterotome at the 12 o'clock position. There was no 
post-sphincterotomy bleeding. The biliary tree was swept with a 
9-12mm balloon starting at the bifurcation. One stone was 
obtained. The final occlusion cholangiogram showed no filling 
defects in the CBD.  Excellent bile and contrast drainage was 
seen endoscopically and fluoroscopically.

 
Brief Hospital Course:
___ h/o UC on Entyvio, cholelithiasis s/p lap CCY ___ 
admitted with persistent abd pain with acute worsening of 
epigastric/RUQ pain with signs of obstructive 
choledocholithiasis. 

# Choledocholithiasis, s/p CCY ___: Ms. ___ presented 
with abd pain and elevated LFTs, leukocytosis, but no fever.  
Due to OSH MRCP findings of a CBD stone, she underwent an ERCP 
with sphincterotomy with extraction of single CBD stone.  She 
tolerated the procedure without immediate complications, but 
continued to have significant midepigastric tenderness with 
radiation to back - exacerbated by eating - most likely 
consistent with post ERCP pancreatitis.  She was kept NPO for 
some time, and steadily advanced her diet until she was able to 
tolerate regular diet.  Her LFTs improved very slowly.  With 
discharge ALT 138, AST 39, AP 137, TBili 0.5.  
   However, with diarrhea, pain associated with eating, 
gas/bloating, and use of PPI (which may predispose to SIBO) and 
lack of improvement, it was believed that much have her symptoms 
could be attributed to SIBO.  Stool c.diff negative. CRP was 6.0 
(upper limits of normal 5.0), indicating that the UC was not 
clinically active. As a result, she was started on Rifaximin at 
550 mg TID.  Once initiating on this medications, her pain 
improved, and she was able to tolerate food without much 
diarrhea. She will complete a 10 day course of this.  
   Of note, prior authorization was obtained for the Rifaximin 
(contacted ___

# vaginal fungal infection: single dose of diflucan 150 mg (no 
teratogenicity based on the dose) was given. 

# UC on Entyvio, IBS: presently no significant diarrhea, CRP at 
6.  Stool c.diff neg.  She was cont'd on her outpt 
cholestyramine, diphen/atropine PRN, hyoscyamine
She can cont home Entyvio at home. 

# 5 wks pregnant: newly diagnosed in the ED.  She wishes to 
continue with this medication.  No contraindication for Entyvio 
(class B, no child vaccination till age ___ and no breastfeeding 
while on it).  She has already scheduled a high risk OB visit in 
2 weeks at ___.

# Depression/Anxiety: cont Venlaxafine, lorazepamn

# OTHER ISSUES AS OUTLINED. 
. 
#PRECAUTIONS: None
COMMUNICATION:  husband and mother
#CONSULTS: ERCP 
#CODE STATUS: [X]full code []DNR/DNI
. 
#DISPOSITION: discharge to home without services.  F/u with 
outpt GI in 2 weeks with blood draw.  No need for interval blood 
draw.   
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Entyvio (vedolizumab) 300 mg injection Q8wk 
2. Diphenoxylate-Atropine 1 TAB PO Q8H:PRN diarrhea 
3. Omeprazole 40 mg PO BID 
4. LORazepam 0.5 mg PO DAILY 
5. Hyoscyamine 0.125 mg SL TID W/MEALS 
6. Promethazine 25 mg PO BID:PRN nausea 
7. Venlafaxine XR 75 mg PO DAILY 
8. Ursodiol 300 mg PO BID 
9. Cholestyramine 4 gm PO BID 

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*4 Tablet Refills:*0 
2.  Rifaximin 550 mg PO/NG TID  
3.  Cholestyramine 4 gm PO BID  
4.  Diphenoxylate-Atropine 1 TAB PO Q8H:PRN diarrhea  
5.  Entyvio (vedolizumab) 300 mg injection Q8wk  
6.  Hyoscyamine 0.125 mg SL TID W/MEALS  
7.  LORazepam 0.5 mg PO DAILY  
8.  Omeprazole 40 mg PO BID  
9.  Promethazine 25 mg PO BID:PRN nausea  
10.  Ursodiol 300 mg PO BID 
You may discuss with your gastroenterologist about the prospect 
of stopping this in the future.   
11.  Venlafaxine XR 75 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Choledocholithiasis
Small intestinal bacterial overgrowth
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,
  
    It was a pleasure looking after you.  As you know, you were 
admitted with abdominal pain and were found to have elevated 
liver function tests (along with common bile duct stone) 
consistent with an obstructive bile duct stone.  You underwent a 
ERCP procedure which helped to extract the bile duct stone.  
Furthermore, a "sphincterotomy" was performed to help expedite 
passage of any sludge or stone from the bile duct to the 
intestines.  You continued to have pain after the procedure - 
and may have had a mild pancreatitis as a consequence.  After 
several days, you were ultimately able to tolerate regular solid 
diet.   You required pain medications and antinausea 
medications.  You were given antinausea medications and a few 
tablets of oxycodone - please use this only if absolutely 
needed.   You may follow up with Dr. ___ in 2 weeks and 
obtain complete blood count, liver function test at that time - 
to follow up with the results.  

   Due to the presence of diarrhea, gas, bloating and use of 
Prilosec (which can predispose), you were considered likely to 
have small bowel bacterial overgrowth.  The Ulcerative colitis 
appears to be in relatively good control - as the CRP level was 
6.  As a result, you were given rifaximin (an oral antibiotic) 
with good response to your symptoms.  Please complete a 10 day 
course of this, to complete treatment.

   You were also found to be approximately 5 weeks pregnant.  As 
discussed, please follow up with high-risk OB at ___ as 
scheduled in 2 weeks.   

   We wish you the best of luck and good health!

Your ___ Team 
 
Followup Instructions:
___